US08278302B2
Synthesis of 2-Chloro-4-(3,5-dimethyl-isoxazol-4-yl)-pyridine for Example 187
The title compound was prepared from 4-bromo-3,5-dimethylisoxazole generally according to the synthetic procedure described for 2-Chloro-4-[1-(tetrahydro-pyran-2-yl)-1H-pyrazol-4-yl]-pyridine. HPLC (Rt)=0.81 min (method N)

reactant | 4-bromo-3,5-dimethylisoxazole | BrC=1C(=NOC1C)C | C5H6BrNO
reactant | 2-Chloro-4-[1-(tetrahydro-pyran-2-yl)-1H-pyrazol-4-yl]-pyridine | ClC1=NC=CC(=C1)C=1C=NN(C1)C1OCCCC1 | C13H14ClN3O
product | 2-Chloro-4-(3,5-dimethyl-isoxazol-4-yl)-pyridine | ClC1=NC=CC(=C1)C=1C(=NOC1C)C | C10H9ClN2O
